US04263291
2-Methoxyimino-2-(1,2,3-thiadiazol-4-yl)acetic acid (anti isomer) (1 g.) and 7-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (1.9 g.) were reacted according to similar manners to those of Examples 1(b) and 8 to give pale yellow powder of 7-[2-methoxyimino-2-(1,2,3-thiadiazol-4-yl)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (anti isomer) (1.5 g.).

reactant | 2-Methoxyimino-2-(1,2,3-thiadiazol-4-yl)acetic acid | 1 g | CON=C(C(=O)O)C=1N=NSC1 | C5H5N3O3S
reactant | 7-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.9 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O | C10H12N6O3S2
product | 7-[2-methoxyimino-2-(1,2,3-thiadiazol-4-yl)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.5 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)C=1N=NSC1 | C15H15N9O5S3
